US03957805
Preparation of 4-(5-Cyclopropyl-3-isoxazolyl)pyridine
To a solution of 2.6 g. of 4-[5-cyclopropyl-5-(1-pyrrolidinyl)-2-isoxazolin-3-yl]pyridine in 25 ml. of ethanol is added 1.4 g. of 70% perchloric acid dissolved in 5 ml. of ethanol. This solution is diluted wth 25 ml. of water and heated on a steam bath for 1.0 hour. The solution is poured onto cracked ice, made basic with 10 N sodium hydroxide and filtered to collect straw-colored crystals, melting point 76°-80°C., nmr spectrum δ6.84 (DMSO-d6, s, 4-isoxazolyl H).

reactant | 4-[5-cyclopropyl-5-(1-pyrrolidinyl)-2-isoxazolin-3-yl]pyridine | C1(CC1)C1(CC(=NO1)C1=CC=NC=C1)N1CCCC1 | C15H19N3O
reactant | ethanol | C(C)O | C2H6O
reactant | perchloric acid | Cl(=O)(=O)(=O)O | ClHO4
reactant | sodium hydroxide | 10 N | [OH-].[Na+]
solvent | water | O | H2O
product | 4-(5-Cyclopropyl-3-isoxazolyl)pyridine | C1(CC1)C1=CC(=NO1)C1=CC=NC=C1 | C11H10N2O
